US05175164
2-Butyl-6-methylquinazolin-4(1H)-one
To a solution of 3.0 g (20 mmol) of 2-amino-5-methylbenzoic acid in 20 mL of dry DMF at 0° C. was added 200 mg of DMAP followed by 6.07 g (60 mmol) of triethyl amine and 5.02 g (40 mmol) of valeryl chloride. The resulting mixture was stirred at 0° C. for 30 minutes. The mixture was heated to 110° C. and monitored by TLC for the formation of the intermediate quinoxazolone (rf=0.8, 40% EtOAc/ hexane). Following complete formation of the intermediate 10 g (100 mmol) of NH4CO3 was added cautiously. Heating was continued to ensure consumption of the quinoxazolone and formation of the polar (rf=0.4, 40%EtOAc/hexane) quinazolin-4(1H)-one. The reaction mixture was concentrated in vacuo and the residue was taken up in 50 mL of ether and 50 mL of water. The mixture was filtered and the filtrate discarded after washing the residue with 20 mL of ether. The residue was recrystallized from MeOH to give 1.07 g (5 mmol) of a white crystaline solid. 25% yield overall. 1H-NMR (CDCl3): 0.94 (t, 3H, J=6.7 Hz), 1.50 (m, 2H), 1.83 (m, 2H), 2.49 (s, 3H), 2.78 (t, 2H), 7.60 (m, 2H), 8.05 (m, 1H). Anal (C13H16N2O), C, H, N.

reactant | 2-amino-5-methylbenzoic acid | 20 mmol, 3.0 g | NC1=C(C(=O)O)C=C(C=C1)C | C8H9NO2
reactant | triethyl amine | 60 mmol, 6.07 g | C(C)N(CC)CC | C6H15N
reactant | valeryl chloride | 40 mmol, 5.02 g | C(CCCC)(=O)Cl | C5H9ClO
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 200 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2-Butyl-6-methylquinazolin-4(1H)-one | 5 mmol, 1.07 g, 25% yield | C(CCC)C=1NC2=CC=C(C=C2C(N1)=O)C | C13H16N2O
